US07807671B2
To sodium hydride (0.1 g) taken in dry DMF (5 ml), under nitrogen, compound tert-butyl 4-(cyanomethyl)piperazine-1-carboxylate (0.5 g) was added and allowed to stir at room temperature for half an hour. Benzaldehyde (280 mg) was added to the above reaction mixture and allowed to stir for 3 hours at room temperature. The reaction mixture was quenched with ice water (50 ml) and extracted with ethyl acetate (3×10 ml). The combined organic layer was washed with brine (10 ml), dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by column chromatography using MeOH: CH2Cl2 (0.5:9.5) as an eluent to afford tert-butyl 4-(1-cyano-2-phenylvinyl)piperazine-1-carboxylate as pure product.

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | tert-butyl 4-(cyanomethyl)piperazine-1-carboxylate | 0.5 g | C(#N)CN1CCN(CC1)C(=O)OC(C)(C)C | C11H19N3O2
reactant | Benzaldehyde | 280 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(1-cyano-2-phenylvinyl)piperazine-1-carboxylate | C(#N)C(=CC1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
